US05250547
To a solution of 6-nitro-2,2-dimethyl-3-aminomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran (0.53 g, 1.53 mmol) and triethylamine (0.25 ml, 1.80 mmol) in dichloromethane (10 ml) at room temperature was added methyl chloroformate (0.14 ml, 1.80 mmol). The solution was stirred for 2 hours and then water added. The organic layer was separated, dried and evaporated to give a crude product, which was crystallized from ether. The crystalline material was then purified by chromatography on silica gel, eluting with acetone/dichloromethane (20/80) to give 0.33 g of 6-nitro-2,2-dimethyl-3-(methoxycarbonylamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran, m.p. 199° C.

reactant | 6-nitro-2,2-dimethyl-3-aminomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 1.53 mmol, 0.53 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CN)N2C(C=CC=C2)=O)C1 | C17H17N3O4
reactant | triethylamine | 1.80 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 1.80 mmol, 0.14 ml | ClC(=O)OC | C2H3ClO2
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-nitro-2,2-dimethyl-3-(methoxycarbonylamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.33 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CNC(=O)OC)N2C(C=CC=C2)=O)C1 | C19H19N3O6
